US03985804
Preparation of 3'-methoxy-2-methylbenzanilide
A 15.5 g (0.1 mol) portion of o-methylbenzoyl chloride was added dropwise to a stirred solution of 11.9 g (0.1 mol) of m-methoxyaniline and 10.1 g (0.1 mol) of triethylamine in 250 ml of ether and the resulting solution was cooled. After addition of the o-methylbenzoylchloride, the mixture was stirred at room temperature for an additional 5 hours, and the reaction mixture was washed with water to remove triethylamine hydrochloride. The ether layer was dried over anhydrous sodium sulfate and the ether was removed whereby 23.9 g (99%) of fine white prisms having a melting point of 142°-143° C were obtained. IR cm-1 (KBr-tablet), νNH 3250 (S), νCO 1655(S), 1610(S).

reactant | o-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | m-methoxyaniline | 0.1 mol, 11.9 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | KBr | [K+].[Br-]
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3'-methoxy-2-methylbenzanilide | COC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C15H15NO2
